US06632810B2
Synthesis of 2-hydroxymethyl-5,6,7-trimethoxyquinoline:
Sodium borohydride (418 mg) and 5,6,7-trimethoxyquinoline-2-carboaldehyde (2.14 g) were successively added to a mixed solvent of methanol (30 mL) and THF (30 mL) under ice cooling, and the mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure, and the residue was then extracted with ethyl acetate. The resultant organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. After concentrating the organic layer under reduced pressure, the residue was purified by column chromatography on silica gel (chloroform:methanol=30:1) to obtain the title compound.

reactant | Sodium borohydride | 418 mg | [BH4-].[Na+]
reactant | 5,6,7-trimethoxyquinoline-2-carboaldehyde | 2.14 g | COC1=C2C=CC(=NC2=CC(=C1OC)OC)C=O | C13H13NO4
reactant | methanol | 30 mL | CO | CH4O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-hydroxymethyl-5,6,7-trimethoxyquinoline | OCC1=NC2=CC(=C(C(=C2C=C1)OC)OC)OC | C13H15NO4
